US08729102B2
F) 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-1-(5-{[tris(1-methylethyl)silyl]oxy}pyridin-2-yl)ethanol
Sodium borohydride (0.109 g) was added to a solution of 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-1-(5-{[tris(1-methylethyl)silyl]oxy}pyridin-2-yl)ethanone (1.50 g) in ethanol (10 mL) at room temperature. The reaction mixture was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate and water, and the organic layer was separated. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (1.210 g).

reactant | Sodium borohydride | 0.109 g | [BH4-].[Na+]
reactant | 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-1-(5-{[tris(1-methylethyl)silyl]oxy}pyridin-2-yl)ethanone | 1.50 g | BrC1=C(C=CC(=C1)OCC1CC1)CC(=O)C1=NC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H36BrNO3Si
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[2-bromo-4-(cyclopropylmethoxy)phenyl]-1-(5-{[tris(1-methylethyl)silyl]oxy}pyridin-2-yl)ethanol | 1.210 g | BrC1=C(C=CC(=C1)OCC1CC1)CC(O)C1=NC=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C26H38BrNO3Si
